US07071177B2
A solution of Oxone® (0.54 g, 0.88 mmol) in H2O (2 mL) was added to a 0° C. solution of 4-[(2-methylthio-ethyl)-(4-fluoro-benzyl)-amino]-N-ethyl-benzenesulfonamide (0.13 g, 0.34 mmol) in MeOH (8 mL) resulting in an immediate precipitate. After 1 h, the mixture was partitioned between CH2Cl2 and H2O. The aqueous layer was extracted with CH2Cl2 (2×). The combined organic layer was dried (Na2SO4), filtered, and evaporated in vacuo to afford 0.14 g (100%) of 4-[(2-methylsulfonyl-ethyl)-(4-fluoro-benzyl)-amino]-N-ethyl-benzenesulfonamide as a pale glass; (m+H)+ 415.

reactant | Oxone | OOS(=O)[O-].[K+]
reactant | 4-[(2-methylthio-ethyl)-(4-fluoro-benzyl)-amino]-N-ethyl-benzenesulfonamide | 0.34 mmol, 0.13 g | CSCCN(C1=CC=C(C=C1)S(=O)(=O)NCC)CC1=CC=C(C=C1)F | C18H23FN2O2S2
reactant | H2O | 2 mL | O | H2O
solvent | MeOH | 8 mL | CO | CH4O
product | 4-[(2-methylsulfonyl-ethyl)-(4-fluoro-benzyl)-amino]-N-ethyl-benzenesulfonamide | 0.14 g, 100% | CS(=O)(=O)CCN(C1=CC=C(C=C1)S(=O)(=O)NCC)CC1=CC=C(C=C1)F | C18H23FN2O4S2
